Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Prevpac / amoxicillin
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo generally healthy woman presenting with dry cough and 
dyspnea as well as elevated D-dimer at urgent care. 

She presented to ___ urgent care clinic the day prior to 
admission with chills/SOB starting on ___ had 
non productive cough, general malaise, myalgias, and overall 
felt unwell progressively worse up until today. Presented to 
___ clinic on ___ where a CXR showed subsegmental 
atelectasis versus infiltrate left lower lobe and small 
bilateral pleural effusions. Because of her complaint of dyspnea 
and inability to take deep breath, a D-dimer was sent. She was 
prescribed azithromycin and albuterol. She took her first dose 
of azithromycin on ___. She received phone call from PCP with 
report of elevated D-dimer and was advised to come to ED.  
 Upon arrival to ED yesterday pt was triggered for tachycardia 
to 125 & temp of 102.6 started on ceftriaxone and given IVF for 
lactate 2.1. BP was 144/73, RR 36, O2 99% on RA. CTA was 
negative for PE, but showed diffuse bronchial wall thickening 
and b/l compressive atelectasis from small b/l pleural effusions 
and edema. Continued to spike temperatures through out the day 
today despite ceftriaxone, +SOB/DOE, & fatigue. Lung sounds 
diminished throughout. Around 1800 ___ desat to 89% placed on 
3L, O2 sat up to 97%. She received 5L fluids for lactate 2.1 
over the last 48 hours and required Lasix 40 IV x1 for fluid 
overload just prior to transport to Farr2.  
 On Transfer Vitals were: 99.2, 108, 122/55, 26, 97% RA  
 She reports posterior headache worse with palpation, fevers, 
myalgias, and non-productive cough as well as dyspnea with 
talking and exertion. No history of asthma. Requests nasal 
cannula oxygen as that helps her feel better.  
 Denies hemoptysis, CP, rhinorrhea, ST. No sick contacts or 
recent travel.  

 
Past Medical History:
 Headache  
 GERD  
 Elevated BP, not on medication  
 Pre-diabetes (A1c 5.8% x2 in ___ and ___  
 
Social History:
___
Family History:
 Son with IBD, no FHx VTE. No family history of asthma or COPD.
 
Physical Exam:
ADMISSION  PHYSICAL EXAM:  
==========================
 Vitals: 99.5, 116/73, 96, 22, 95% RA  
 GENERAL - pleasant, fatigued-appearing. Daughter at bedside 
helps to relay history.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear  
 NECK - supple, no LAD, no thyromegaly, JVP 8  
 CARDIAC - regular rate & rhythm, normal S1/S2, no murmurs rubs 
or gallops  
 PULMONARY - Wet crackles at both bases. Otherwise clear to 
auscultation bilaterally, without wheezes  
 ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly  
 EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash  
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait assessment deferred  
 PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant  

DISCHARGE PHYSICAL EXAM:
==========================
VS -  98 78 139/87 16 99% ra
Amb O2 sats: did not desaturate 
General: fatigued, sitting in bed in NAD
HEENT:  no scleral icterus, mmm, nl OP
CV:  rrr, no m/r/g
Lungs:  normal wob on ra, very poor inspiratory effort, 
decreased breath sounds at bl bases
Abdomen:  soft, NT/ND, +bs
Ext:  warm, no edema, 2+ pulses
Neuro:  alert, moving all 4 extremities
Skin:  no rashes
 
Pertinent Results:
ADMISSION LABS:
==========================
___ 06:55PM BLOOD WBC-12.8* RBC-4.03 Hgb-11.6 Hct-36.0 
MCV-89 MCH-28.8 MCHC-32.2 RDW-11.8 RDWSD-38.1 Plt ___
___ 06:55PM BLOOD Neuts-76.9* Lymphs-14.3* Monos-7.7 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-9.85* AbsLymp-1.83 
AbsMono-0.98* AbsEos-0.02* AbsBaso-0.05
___ 06:55PM BLOOD Plt ___
___ 06:55PM BLOOD Glucose-98 UreaN-11 Creat-0.9 Na-138 
K-4.0 Cl-100 HCO3-23 AnGap-19
___ 06:55PM BLOOD ALT-71* AST-59* AlkPhos-124* TotBili-0.5
___ 06:55PM BLOOD proBNP-108
___ 06:55PM BLOOD Albumin-4.1

OTHER PERTINENT LABS:
==========================
___ 06:20PM BLOOD proBNP-249*

MICRO DATA:
==========================
___ BLOOD CULTURES: No growth at time of discharge

IMAGING/STUDIES:
==========================
___ CXR:  Bibasilar consolidations may represent a combination 
of pleural fluid, atelectasis, and/or pneumonia in the 
appropriate clinical setting. 

___ CTA:  
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Small bilateral pleural effusion with compressive atelectasis 
of bilateral lung bases. Ground-glass opacities are compatible 
with mild pulmonary edema. 
3. Diffuse bronchial wall thickening may reflect inflammation. 

___ CXR:  
Low lung volumes, bibasilar atelectasis and trace pleural 
effusions.  No overt pulmonary edema. 

DISCHARGE LABS:
==========================
___ 07:50AM BLOOD WBC-5.1 RBC-3.40* Hgb-9.8* Hct-30.4* 
MCV-89 MCH-28.8 MCHC-32.2 RDW-12.1 RDWSD-39.4 Plt ___
___ 07:50AM BLOOD Glucose-93 UreaN-15 Creat-0.7 Na-141 
K-4.7 Cl-105 HCO3-27 AnGap-___RIEF SUMMARY STATEMENT:
=========================
___ woman with a history of hypertension and headaches who 
presented with a 5 days of shortness of breath, chills, malaise, 
cough, and fevers, consistent with an acute bronchitis. She had 
first presented to an urgent care, where CXR was concerning for 
LLL PNA, and she was started on Azithromycin (Day 1: ___. D 
Dimer positive, so she was referred to the ED, where CTA showed 
bilateral pleural effusions but no PE or pneumonia. Etiology was 
thought to be inflammation from a viral bronchitis. She did 
complete a 5-day course of Azithromycin, but was otherwise 
treated symptomatically with incentive spirometry, IV fluids, 
nebs, and Guaifenesin. At time of discharge, she was afebrile, 
white count had normalized, and was breathing comfortably on 
room air.

ACTIVE ISSUES:
=========================
# BRONCHITIS: 
Patient presented to urgent care with several days of fevers, 
chills, cough, and malaise; CXR was concerning for possible LLL 
PNA, so she was started on Azithromycin on ___. D dimer 
positive, so she was referred to the ED due to concern for PE. 
CTA only showed bilateral pleural effusions with compressive 
atelectasis, as well as bronchial wall thickening. Most 
consistent with inflammation in the setting of a viral 
bronchitis. Influenza negative. Ceftriaxone was discontinued on 
___. She completed a 5-day course of Azithromycin (___), 
though as above viral bronchitis was ultimately felt to be the 
most likely cause of her symptoms. Otherwise, she was treated 
symptomatically with incentive spirometry, albuterol nebs, 
supplemental O2, and Tylenol. At time of discharge, she was 
afebrile and was breathing comfortably on room air.

# PULMONARY EDEMA: 
Patient was noted to have possible small pleural effusions on 
Urgent Care CXR, then received 5L IVF on admission. She denied 
orthopnea, PND, or swelling. TTE showed mild pulmonary arterial 
HTN but normal EF. She put out >1L without any additional Lasix, 
and was euvolemic at time of discharge. 

# ANEMIA: 
Patient presented with Hgb 9.5, down from baseline of 11.6. As 
all other cell lines were also down, this was likely dilutional 
in the setting of getting 5L IVF. 

TRANSITIONAL ISSUES:
=========================
# ANTIBIOTICS: Patient completed 5-day course of Azithromycin, 
so does not need antibiotics at home
# CBC: Consider repeat CBC as patient was anemic in the 
hospital. 
# Please monitor volume status as outpatient 
# CODE: Full
# CONTACT: ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Azithromycin 500 mg PO ONCE 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
2. Acetaminophen 650 mg PO Q6H:PRN pain/headache 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6 hr prn Disp 
#*30 Tablet Refills:*0
3. Guaifenesin-CODEINE Phosphate ___ mL PO Q4H:PRN cough 
RX *codeine-guaifenesin 100 mg-10 mg/5 mL 10 mg by mouth q4 
hours prn Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Acute viral bronchitis

SECONDARY DIAGNOSES
- Pulmonary edema
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHY WAS I IN THE HOSPITAL
- You had a cough, fevers, and chills at home
- You had an infection in your airway

WHAT HAPPENED IN THE HOSPITAL
- You had a CT of your chest, which showed no signs of a blood 
clot
- You received antibiotics for an infection in your lungs
- You got medicines to help your pain and coughing

WHAT DO I NEED TO DO WHEN I LEAVE THE HOSPITAL
- Take all of your medicines as prescribed
- Go to all of your follow-up appointments, listed below
- If you have more fevers, chills, worsening cough, or any other 
symptoms that concern you, please call your doctor
 
Followup Instructions:
___